US07601736B2
Synthesis of 8-morpholine-4-yl-6-phenyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on
128 mg (98%) of 8-morpholine-4-yl-6-phneyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on was obtained in white solid using the method same as in Example 35 except that 110 mg of 8-chloro-6-phenyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on was added with morpholine instead of 4-fluoro-aniline.

reactant | 8-chloro-6-phenyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on | 110 mg | ClC=1N=C(C=C2C1C(OCC2)=O)C2=CC=CC=C2 | C14H10ClNO2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 8-morpholine-4-yl-6-phenyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on | N1(CCOCC1)C=1N=C(C=C2C1C(OCC2)=O)C2=CC=CC=C2 | C18H18N2O3
